US08404672B2
A solution of (3-methylbut-1-ynyl)pyridine (170 mg, 1.17 mmol), dimethyl nitromalonate (0.395 mL, 2.93 mmol), and 1-butyl-3-methylimidazolium hexafluorophosphate (0.024 mL, 0.117 mmol) in toluene (7 mL) was heated to 170° C. for 120 minutes under microwave. The reaction mixture was concentrated and purified by silica gel chromatography with hexanes/ethyl acetate (10/1) to afford methyl 4-isopropyl-5-(pyridin-2-yl)isoxazole-3-carboxylate (11 mg, 0.033 mmol, 2.8% yield). The compound had an HPLC retention time=2.96 min.—Column: YMC S5 COMBISCREEN® 4.6×50 mm; Gradient time: 4 min; Flow rate=4 ml/min; Solvent A=10% MeOH—90% Water—0.2% H3PO4; Solvent B=90% MeOH—10% water—0.2% H3PO4; Start % B=0; Final % B=100. LC-MS: M+1=247.15. 1H NMR (400 MHz, CDCl3) δ ppm 1.36 (s, 3H), 1.38 (s, 3H), 4.02 (s, 3H), 4.03-4.10 (m, 1H), 7.33-7.38 (m, 1H), 7.80-7.90 (m, 2H), and 8.72-8.76 (m, 1H).

reactant | (3-methylbut-1-ynyl)pyridine | 1.17 mmol, 170 mg | CC(C#CC1=NC=CC=C1)C | C10H11N
reactant | dimethyl nitromalonate | 2.93 mmol, 0.395 mL | [N+](=O)([O-])C(C(=O)OC)C(=O)OC | C5H7NO6
reactant | 1-butyl-3-methylimidazolium hexafluorophosphate | 0.117 mmol, 0.024 mL | F[P-](F)(F)(F)(F)F.C(CCC)[N+]1=CN(C=C1)C
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-isopropyl-5-(pyridin-2-yl)isoxazole-3-carboxylate | 0.033 mmol, 11 mg, 2.8% yield | C(C)(C)C=1C(=NOC1C1=NC=CC=C1)C(=O)OC | C13H14N2O3
